US07932246B2
N-(1-Isobutoxyethoxy) 2-{6-[(2-diethylamino-ethyl)naphthalen-2-ylmethylamino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide
N-(1-Isobutoxyethoxy) 2-{6-[(naphthalen-2-ylmethyl)-amino]-3-azabicyclo[3.1.0]hex-3-yl}-pyrimidine-5-carboxamide (52 mg, 0.11 mmol) was dissolved in anhydrous DMF (2 ml) and cooled over ice. To the solution was added sodium hydride (13 mg, 0.55 mmol-60% dispersion in mineral oil) and the mixture was stirred for 15 min. To the stirring mixture was then added (2-bromoethyl)-N,N-diethylamine (22 mg, 0.12 mmol). After stirring for 30 min, the reaction was quenched by the careful addition of water and stirred for 10 min. The aqueous mixture was extracted with EtOAc (3×20 ml) and the combined organic extracts were washed with brine, dried (MgSO4) and evaporated to dryness to give the title compound as a white solid (18 mg, 29%). LCMS purity 100%, m/z 575 [M+H]+.

reactant | N-(1-Isobutoxyethoxy) 2-{6-[(naphthalen-2-ylmethyl)-amino]-3-azabicyclo[3.1.0]hex-3-yl}-pyrimidine-5-carboxamide | 0.11 mmol, 52 mg | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)NCC1=CC2=CC=CC=C2C=C1 | C27H33N5O3
reactant | sodium hydride | 13 mg | [H-].[Na+]
reactant | (2-bromoethyl)-N,N-diethylamine | 0.12 mmol, 22 mg | BrCCN(CC)CC | C6H14BrN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(1-Isobutoxyethoxy) 2-{6-[(2-diethylamino-ethyl)naphthalen-2-ylmethylamino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 18 mg, 29% | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CC1=CC2=CC=CC=C2C=C1)CCN(CC)CC | C33H46N6O3
